US08802670B2
Crude 4-Methanesulfonyl-[1,4]diazepane-1-carboxylic acid tert-butyl ester (1.23 g) was stirred in anhydrous methanol (10 ml). 2M hydrogen chloride in ether (22 ml) was added. The reaction mixture was stirred at room temperature. After 5 minutes a precipitate formed, addition of anhydrous methanol (5 ml) caused this to dissolve. The reaction mixture was stirred overnight at room temperature. The solvents were removed in vacuo to yield 1.06 g of 1-methanesulfonyl-[1,4]diazepane hydrochloride salt.

reactant | 4-Methanesulfonyl-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 1.23 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)S(=O)(=O)C | C11H22N2O4S
reactant | hydrogen chloride | 2M | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | ether | 22 ml | CCOCC | C4H10O
solvent | methanol | 5 ml | CO | CH4O
product | 1-methanesulfonyl-[1,4]diazepane hydrochloride salt | 1.06 g | Cl.CS(=O)(=O)N1CCNCCC1 | InChI=1S/C6H14N2O2S.ClH/c1-11(9,10)8-5-2-3-7-4-6-8;/h7H,2-6H2,1H3;1H
